US09375010B2
A solution of N′-hydroxy-N-{6-[({[(Z)-(4-methyl-5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-yl}ethanimidamide (150 mg, 0.392 mmol, 1 eq), iodomethylcyclopropane (0.069 ml, 0.588 mmol, 1.5 eq) and cesium carbonate (191 mg, 0.588 mmol, 1.5 eq) in DMF (3 ml) was stirred at 80° C. for 7 h and overnight at room temperature. Iodomethylcyclopropane (0.069 ml, 0.588 mmol, 1.5 eq), cesium carbonate (191 mg, 0.588 mmol, 1.5 eq) and potassium iodide (0.1 eq) were then added and the mixture was stirred at 60° C. for 8 h. Water was added and the mixture was extracted with ethyl acetate. The organics were combined, dried over MgSO4 and evaporated. The residue was purified by chromatography on silica gel to afford N′-(cyclopropylmethoxy)-N-{6-[({[(Z)-(4-methyl-5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-yl}ethanimidamide (20 mg, 10% yield) as a transparent oil.

reactant | N′-hydroxy-N-{6-[({[(Z)-(4-methyl-5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-yl}ethanimidamide | 0.392 mmol, 150 mg, 1 eq | ON=C(C)NC1=NC(=CC=C1)CO\N=C(\C1=CC=CC=C1)/C1=NOC(N1C)=O | C18H18N6O4
reactant | iodomethylcyclopropane | 0.588 mmol, 0.069 ml, 1.5 eq | ICC1CC1 | C4H7I
reactant | cesium carbonate | 0.588 mmol, 191 mg, 1.5 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Iodomethylcyclopropane | 0.588 mmol, 0.069 ml, 1.5 eq | ICC1CC1 | C4H7I
reactant | cesium carbonate | 0.588 mmol, 191 mg, 1.5 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | 0.1 eq | [I-].[K+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | N′-(cyclopropylmethoxy)-N-{6-[({[(Z)-(4-methyl-5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-yl}ethanimidamide | 20 mg, 10% yield | C1(CC1)CON=C(C)NC1=NC(=CC=C1)CO\N=C(\C1=CC=CC=C1)/C1=NOC(N1C)=O | C22H24N6O4
